US07795283B2
Intermediate 81: 3-{[(1R)-2-Methoxy-1-methylethyl]oxy}aniline
1-{[(1R)-2-methoxy-1-methylethyl]oxy}-3-nitrobenzene (1.00 g; 4.74 mmol) was dissolved in MeOH (20 ml) and treated with 10% palladium on carbon then placed under an atmosphere of hydrogen and stirred for 24 h. The reaction mixture was filtered then concentrated by evaporation to give the title compound (Intermediate 81) (0.88 g) as an oil; 1H NMR δ 1.18 (d, 3H), 3.24 (s, 3H), 3.34-3.42 (m, 1H), 3.42-3.52 (m, 1H), 4.37-4.49 (m, 1H), 4.90 (s, 2H), 6.04-6.11 (m, 1H), 6.10-6.18 (m, 2H), 6.83-6.91 (m, 1H); MH+ 182.

reactant | 1-{[(1R)-2-methoxy-1-methylethyl]oxy}-3-nitrobenzene | 4.74 mmol, 1.00 g | COC[C@@H](C)OC1=CC(=CC=C1)[N+](=O)[O-] | C10H13NO4
solvent | MeOH | 20 ml | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | 3-{[(1R)-2-Methoxy-1-methylethyl]oxy}aniline | 0.88 g | COC[C@@H](C)OC=1C=C(N)C=CC1 | C10H15NO2
